### PR TITLE
[Merged by Bors] - feat(RepresentationTheory/Homological): generalization of the vanishing of inflation/restriction

### PR DESCRIPTION
**Pull request by joelriou**
We show that the map in group cohomology induced by a trivial morphism of groups vanishes in nonzero degrees (because it factors through the cohomology of the trivial group). This allows to generalize the "inflation/restriction" short complex to arbitrary nonzero degrees.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean [hunk 1]
```diff
@@ -171,6 +172,33 @@ theorem map_id_comp {A B C : Rep k G} (φ : A ⟶ B) (ψ : B ⟶ C) (n : ℕ) :
...
+            simpa [hf] using ((φ.hom.isIntertwining) g a).symm)
+        isIntertwining' g := by aesop }
+  let β : res a C ⟶ B :=
+    Rep.ofHom
+      { toLinearMap := B.ρ.invariants.subtype
+        isIntertwining' g := by ext x; exact (x.property g).symm }
+  obtain rfl : f = b.comp a := by aesop
+  have : map a β (n + 1) = 0 :=
+    (isZero_groupCohomology_succ_of_subsingleton _ _).eq_of_src ..
+  rw [show φ = (resFunctor a).map α ≫ β from rfl, map_comp, this, Limits.comp_zero]
```
Comment (Whysoserioushah) [inline Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean]:
```suggestion
  obtain rfl : f = (1 : PUnit.{u + 1} →* H).comp (1 : G →* PUnit.{u + 1}) := by simpa using hf
  obtain ⟨n, rfl⟩ := Nat.exists_eq_add_one_of_ne_zero (NeZero.ne n)
  have h0 : map (1 : G →* PUnit.{u + 1}) (A := res 1 A) φ (n + 1) = 0 :=
    (isZero_groupCohomology_succ_of_subsingleton _ _).eq_of_src ..
  rw [show φ = (resFunctor (1 : G →* PUnit.{u + 1})).map (𝟙 (res 1 A)) ≫ φ from rfl,
    map_comp, h0, Limits.comp_zero]
```

Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean]: and maybe then `map₁_one` could be a corollary of this lemma

**Review by Whysoserioushah — COMMENTED** [review]
Also (completely irrelavent), I have [this PR toCFT](https://github.com/kbuzzard/ClassFieldTheory/pull/190) that also does the same job :)

File: Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean]: Thanks for the suggestions!

**Comment by Whysoserioushah** [comment]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
